US04198423
At about 25° C., 37.2 g (0.2 mole) of trichloromethylsulfenyl chloride and subsequently 20.2 g (0.2 mole) of triethylamine are dripped, while stirring thoroughly, into a suspension of 14.0 g (0.1 mole) of 3-cyclopropylhydantoin in 150 ml of anhydrous hydantoin. After stirring for 12 hours at room temperature, the precipitated triethylamine hydrochloride is filtered off and the reaction mixture is worked up as in Example 1. There is obtained 23.5 g (59% of theory) of 1,3-bis-(trichloromethylthio)-hydantoin; m.p. 140°-142° C.

reactant | trichloromethylsulfenyl chloride | 0.2 mole, 37.2 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | triethylamine | 0.2 mole, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopropylhydantoin | 0.1 mole, 14.0 g | C1(CC1)N1C(NCC1=O)=O | C6H8N2O2
solvent | hydantoin | 150 ml | N1C(=O)NC(=O)C1 | C3H4N2O2
product | 1,3-bis-(trichloromethylthio)-hydantoin | 23.5 g, 59% | ClC(SN1C(=O)N(C(=O)C1)SC(Cl)(Cl)Cl)(Cl)Cl | C5H2Cl6N2O2S2
